US08461160B2
Starting from (S)-3-amino-3-(3-nitro-phenyl)-butyric acid methyl ester (0.42 mmole) and tert-butyl [(benzylamino)carbonothioyl]carbamate, the product [(S)-1-benzyl-4-methyl-4-(3-nitro-phenyl)-6-oxo-1,4,5,6-tetrahydro-pyrimidin-2-yl]-carbamic acid tert-butyl ester (165 mg) was obtained as a white solid. MS (ESI): m/z=439.3 [ M+H]+.

reactant | (S)-3-amino-3-(3-nitro-phenyl)-butyric acid methyl ester | 0.42 mmole | COC(C[C@@](C)(C1=CC(=CC=C1)[N+](=O)[O-])N)=O | C11H14N2O4
reactant | tert-butyl [(benzylamino)carbonothioyl]carbamate | C(C1=CC=CC=C1)NC(=S)NC(OC(C)(C)C)=O | C13H18N2O2S
product | [(S)-1-benzyl-4-methyl-4-(3-nitro-phenyl)-6-oxo-1,4,5,6-tetrahydro-pyrimidin-2-yl]-carbamic acid tert-butyl ester | 165 mg | C(C)(C)(C)OC(NC=1N(C(C[C@](N1)(C1=CC(=CC=C1)[N+](=O)[O-])C)=O)CC1=CC=CC=C1)=O | C23H26N4O5
